US04933355
2-Morpholinothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated but using 2.4 g of 2-morpholinothiazol-4-ylmethanol, 5.7 g of sulfur trioxide pyridine complex. 3.6 g of triethylamine and 30 ml of dimethyl sulfoxide, giving the title compound as pale yellow needles.

reactant | 2-morpholinothiazol-4-ylmethanol | 2.4 g | O1CCN(CC1)C=1SC=C(N1)CO | C8H12N2O2S
reactant | triethylamine | 3.6 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-Morpholinothiazole-4-carbaldehyde | O1CCN(CC1)C=1SC=C(N1)C=O | C8H10N2O2S
